US07449467B2
N-[(1S,3S)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridine-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1S,3S)-3-ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride (100 mg, 0.20 mmol), 3-methyltetrahydro-4H-pyran-4-one (96 mg, 0.71 mmol), and triethylamine (0.11 mL, 0.79 mmol) in methylene chloride (3 mL) was added sodium triacetoxyborohydride (96 mg, 0.45 mmol). After being stirred at room temperature overnight, the reaction was quenched with saturated NaHCO3 and extracted with methylene chloride three times. The combined organics were dried (MgSO4), filtered, concentrated, purified by flash column chromatography (NH4OH/MeOH/EtOAc) to yield the desired product (38 mg, 40%). MS calculated for C24H35F3N4O2: (M+H) 469.3; found 469.3.

reactant | (1S,3S)-3-ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride | 0.20 mmol, 100 mg | Cl.Cl.C(C)[C@]1(C[C@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.71 mmol, 96 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 0.79 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.45 mmol, 96 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[(1S,3S)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridine-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine | 38 mg, 40% | C(C)[C@]1(C[C@H](CC1)NC1C(COCC1)C)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O2
